US08378107B2
Step 3: (3-{3-[(tert-Butoxycarbonyl-ethyl-amino)-methyl]-quinolin-2-yl}-4-methoxy-phenyl)-acetic acid ethyl ester
(2-Chloro-quinolin-3-ylmethyl)-ethyl-carbamic acid tert-butyl ester (1.0 g, 3.11 mmol), [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester (1.07 g, 3.34 mmol), potassium carbonate (1.08 g, 7.8 mmol), and catalytic tetrakis(triphenylphosphine)palladium(0) were combined in 2:1 DME:H2O (18 mL), and stirred at 80° C. for 6 hours. After standard work-up, the residue was purified by silica gel chromatography to give the title compound.

reactant | (2-Chloro-quinolin-3-ylmethyl)-ethyl-carbamic acid tert-butyl ester | 3.11 mmol, 1.0 g | C(C)(C)(C)OC(N(CC)CC=1C(=NC2=CC=CC=C2C1)Cl)=O | C17H21ClN2O2
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | 3.34 mmol, 1.07 g | C(C)OC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C17H25BO5
reactant | potassium carbonate | 7.8 mmol, 1.08 g | C([O-])([O-])=O.[K+].[K+]
reactant | DME | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 18 mL | O | H2O
product | (3-{3-[(tert-Butoxycarbonyl-ethyl-amino)-methyl]-quinolin-2-yl}-4-methoxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)C1=NC2=CC=CC=C2C=C1CN(CC)C(=O)OC(C)(C)C)=O | C28H34N2O5
